US07989497B2
Step 2: 3-Amino-6-chloro-2-hydroxy-N-methoxy-N-methyl-benzenesulfonamide
2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid methoxy-methyl-amide (4.8 g, 14.42 mmol) in dioxane (55 ml) and water (20 ml) was treated with concentrated sulphuric acid (20 ml) added dropwise over 30 minutes maintaining the temperature <30° C. The reaction mixture was heated at reflux for 2.5 h and then allowed to cool to RT. Dioxane was removed in vacuo and the resulting aqueous residue was basified with sat. NaHCO3 solution (250 ml) to pH12. The reaction mixture was extracted with EtOAc (3×200 ml) and the combined organic extracts were washed with water (3×100 ml) sat. brine (100 ml), dried (MgSO4) and concentrated in vacuo to afford the title compound as a brown solid; [M+H]+ 266.

reactant | 2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid methoxy-methyl-amide | 14.42 mmol, 4.8 g | CON(S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)C | C13H17ClN2O4S
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 55 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 3-Amino-6-chloro-2-hydroxy-N-methoxy-N-methyl-benzenesulfonamide | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N(C)OC)O | C8H11ClN2O4S
